US08114872B2
2-Fluoro-4-iodo-5-methoxymethoxy-pyridine
Cool a solution of 2-fluoro-5-methoxymethoxy-pyridine (4.1 g, 26.1 mmol) in THF (60 mL) to −75° C. Add tert-butyllithium (1.7 M in pentane, 30.4 mL, 51.7 mmol) over a period of 30 min. Stir the mixture for an additional half an hour. Add iodine (9.8 g, 38.6 mmol, dissolved in 60 mL of THF). Stir for 1 h after the addition is complete. Allow the temperature to raise to RT over 1 h while stirring. Treat the mixture with water. Extract the solution with ethyl acetate three times. Wash the organic layer with aqueous saturated sodium chloride. Dry the mixture over sodium sulfate. Concentrate the solution in vacuo to a brown solid. Triturate the brown solid with hexane. Filter to afford the title compound (3.9 g, 53%) as a brown solid. 1H NMR (400 MHz, CDCl3) δ 3.53 (s, 3H), 5.23 (s, 2H), 7.39 (d, J=4.0 Hz, 1H), 7.96 (d, J=1.6 Hz, 1H).

reactant | 2-fluoro-5-methoxymethoxy-pyridine | 26.1 mmol, 4.1 g | FC1=NC=C(C=C1)OCOC | C7H8FNO2
reactant | tert-butyllithium | 51.7 mmol, 1.7 M, 30.4 mL | C(C)(C)(C)[Li]
reactant | iodine | 38.6 mmol, 60 mL, 9.8 g | II | I2
reactant | water | O | H2O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 2-Fluoro-4-iodo-5-methoxymethoxy-pyridine | 3.9 g, 53% | FC1=NC=C(C(=C1)I)OCOC | C7H7FINO2
